US08648066B2
2-Methylpropyl 6-bromo-2-cyclopropyl-3H-imidazo[4,5-b]pyridine-3-carboxylate.
Synthesized according to the method of reagent preparation 19 by using 5-bromo-2,3-diaminopyridine and acylation with cyclopropylcarbonyl chloride in step 1 and treatment with isobutyl chloroformate in step 3. MS (EI) for C14H16BrN3O2: 339 (MH+).

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | 2-Methylpropyl 6-bromo-2-cyclopropyl-3H-imidazo[4,5-b]pyridine-3-carboxylate | BrC=1C=C2C(=NC1)N(C(=N2)C2CC2)C(=O)OCC(C)C | C14H16BrN3O2
